US04012413
In the manner given in Example 1, N,N-dimethyl-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4benzodiazepine-1-acetamide is reduced with borane to give 1-[2-(dimethylamino)ethyl]-8-chloro-5,6-dihydro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4-benzodiazepine.

reactant | 1,4benzodiazepine-1-acetamide | N1(C=CN=CC2=C1C=CC=C2)CC(=O)N | C11H11N3O
reactant | borane | B | BH3
product | 1,4-benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
